US06437184B1
First, 0.55 g of 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol, 0.30 g of potassium carbonate, 0.59 g of 4-(methanesulfonyloxy)butyloxyacetone O-tert-butyloxime, and 10 ml of N,N-dimethylformamide are placed in a reaction vessel. After stirring at 60° C. for 6 hours, the reaction mixture is poured into diluted hydrochloric acid, and extracted twice with ethyl acetate. The ethyl acetate layers are combined, washed with water, dried over anhydrous magnesium sulfate, and concentrated to give a crude product. This crude product is subjected to silica gel chromatography, which affords 0.71 g (yield, 77%) of 4-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)-butyloxyacetone O-tert-butyloxime, nD25.0 1.5170.

reactant | 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol | 0.55 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | potassium carbonate | 0.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(methanesulfonyloxy)butyloxyacetone O-tert-butyloxime | 0.59 g | C(C)(C)(C)ON=C(C)COCCCCOS(=O)(=O)C | C12H25NO5S
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)-butyloxyacetone O-tert-butyloxime | 0.71 g, 77% | C(C)(C)(C)ON=C(C)COCCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C20H27Cl4NO4
